US04374248
3-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-ethylamino-1,2,5-thiadiazole 1-oxide
A solution of 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine (2.64 g; 12.3 mmoles) in 25 ml of dry methanol was added dropwise over a period of 30 minutes to a well stirred solution of 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide (2.0 g; 12.3 mmoles) in 75 ml of dry methanol that had been cooled to 8° in an ice-water bath. After 15 minutes, 4.0 ml of ethylamine was added and the mixture stirred at ambient temperature for 1 hour. The reaction mixture was evaporated under reduced pressure and the residue placed on 55 g of silica gel and chromatographed using a gradient elution of methylene chloride-methanol. The appropriate fractions were combined, evaporated under reduced pressure and the residue treated with ether and decanted. The residue was treated with fresh ether to give 1.5 g of the title compound, mp 68°-74°.

reactant | 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | 12.3 mmoles, 2.64 g | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1-oxide | 12.3 mmoles, 2.0 g | COC1=NS(N=C1OC)=O | C4H6N2O3S
reactant | ethylamine | 4.0 ml | C(C)N | C2H7N
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 75 ml | CO | CH4O
product | 3-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-ethylamino-1,2,5-thiadiazole 1-oxide | 1.5 g | CN(C)CC1=CC=C(O1)CSCCNC1=NS(N=C1NCC)=O | C14H23N5O2S2
